US04644009
Preparation of 2-(3-m-phenoxyphenylpropionyl)pyrrole
A mixture of 9 g (31.1 mmol) of 2-(3-phenoxycinnamoyl)pyrrole, 3, and 2 g of 10% Pd/C in 200 ml of ethanol was stirred and hydrogen gas was passed over the reaction mixture for 2 hours and 15 minutes. The mixture was dried and concentrated on a rotary evaporator to give 9 g of solid product. The crude reaction product was chromatographed on silica gel (for dry column chromatography), eluting with ethyl acetate/hexane (1:4). The chromatographed material was recrystallized twice from isopropanol yielding analytically pure light yellow solid material, m.p. 75°-76° C.

reactant | 2-(3-phenoxycinnamoyl)pyrrole | 31.1 mmol, 9 g | O(C1=CC=CC=C1)C=1C=C(C=CC(=O)C=2NC=CC2)C=CC1 | C19H15NO2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | Pd/C | 2 g | [Pd] | Pd
product | 2-(3-m-phenoxyphenylpropionyl)pyrrole | 9 g | O(C1=CC=CC=C1)C=1C=C(C=CC1)CCC(=O)C=1NC=CC1 | C19H17NO2
